US07910595B2
(S)-1-(1-Azidoethyl)-2-bromobenzene
To a solution of (R)-(+)-2-bromo-α-methylbenzyl alcohol (402 mg, 2.0 mmol) and diphenylphosphoryl azide (0.692 ml, 3.2 mmol) in THF (10 mL) was added 1,8-diazabicyclo[5.4.0]undec-7-ene (0.466 ml, 3.2 mmol). The mixture was heated at 50° C. for overnight, partitioned with H2O and AcOEt, and then adjusted to pH 7 by adding 1M HCl. The organic layer was dried with MgSO4, filtered and evaporated. The residue was purified by silica gel column chromatography [eluting with n-hexane/AcOEt=95/5] to give the title compound (381 mg, 84%).

reactant | (R)-(+)-2-bromo-α-methylbenzyl alcohol | 2.0 mmol, 402 mg | BrC1=C([C@@H](C)O)C=CC=C1 | C8H9BrO
reactant | diphenylphosphoryl azide | 3.2 mmol, 0.692 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 3.2 mmol, 0.466 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)-1-(1-Azidoethyl)-2-bromobenzene | 381 mg, 84% | N(=[N+]=[N-])[C@@H](C)C1=C(C=CC=C1)Br | C8H8BrN3
